* c:\users\yogapriya\esim-workspace\darlington_pair_amplifier\darlington_pair_amplifier.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 vdd net-_c1-pad2_ net-_m1-pad3_ vout CMOSN W=100u L=100u M=1
r1  vdd net-_c1-pad2_ 22k
r2  net-_c1-pad2_ vout 5k
c1  vin net-_c1-pad2_ 22u
r3  net-_m1-pad3_ vout 100
m2 net-_m2-pad1_ net-_m1-pad3_ net-_c2-pad1_ vdd CMOSP W=100u L=100u M=1
r5  vdd net-_m2-pad1_ 1k
r4  net-_c2-pad1_ vout 100
r6  net-_m2-pad1_ vout 1k
c2  net-_c2-pad1_ vout 11u
v1  vin vout 12
.tran 10e-03 50e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
